US08076516B2
Reduction of 3-(3-bromo-4-fluorophenyl)-3-hydroxypropanenitrile with BH3-THF following the method used in Example 17, followed by protection of the amine with ethyl trifluoroacetate following the method used in Example 9 gave N-(3-(3-bromo-4-fluorophenyl)-3-hydroxypropyl)-2,2,2-trifluoroacetamide as a clear oil. Yield (4.3 g, 73%): 1H NMR (400 MHz, DMSO-d6) δ 9.31 (bs, 1H), 7.62 (dd, J=6.8, 2.0 Hz, 1H), 7.37-7.33 (m, 1H), 7.30 (t, J=8.8 Hz, 1H), 5.48 (d, J=4.4 Hz, 1H), 4.60-4.56 (m, 1H), 3.28-3.15 (m, 2H), 1.84-1.71 (m, 2H).

reactant | 3-(3-bromo-4-fluorophenyl)-3-hydroxypropanenitrile | BrC=1C=C(C=CC1F)C(CC#N)O | C9H7BrFNO
reactant | BH3-THF | B.C1CCOC1
reactant | ethyl trifluoroacetate | FC(C(=O)OCC)(F)F | C4H5F3O2
product | N-(3-(3-bromo-4-fluorophenyl)-3-hydroxypropyl)-2,2,2-trifluoroacetamide | BrC=1C=C(C=CC1F)C(CCNC(C(F)(F)F)=O)O | C11H10BrF4NO2
